US07285563B2
6-(4-Fluorophenyl)nicotinamide
A mixture of 6-chloronicotinamide (5.00 g, 31.95 mmol), 4-fluorobenzene boronic acid (4.92 g, 35.14 mmol), and Pd(PPh3)4(1.10 g, 0.96 mmol) in a mixture of toluene (80 ml), ethanol (12 ml) and 2M sodium carbonate (36.74 ml, 73.48 mmol) was degassed (N2) and heated at 100° C. for 18 hours. The reaction mixture was cooled to room temperature and then filtered. The collected solid was washed with water and dried. The dried solid was taken up in methanol (100 ml) and heated to reflux for 20 minutes. The mixture was then cooled to room temperature, filtered and the solid dried to give the title compound (6.25 g, 90%) as a pale grey solid.

reactant | 6-chloronicotinamide | 31.95 mmol, 5.00 g | ClC1=NC=C(C(=O)N)C=C1 | C6H5ClN2O
reactant | 4-fluorobenzene boronic acid | 35.14 mmol, 4.92 g | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | ethanol | 12 ml | C(C)O | C2H6O
reactant | sodium carbonate | 73.48 mmol, 2M, 36.74 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)4 | 0.96 mmol, 1.10 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-(4-Fluorophenyl)nicotinamide | 6.25 g, 90% | FC1=CC=C(C=C1)C1=NC=C(C(=O)N)C=C1 | C12H9FN2O
